US07235579B2
4-(3-Benzyloxy-4-methoxyphenyl)-2-pyrrolidone
To a mixture of 8.3 g (34.8 mmol) of NiCl2-6H2O in 750 mL of MeOH was slowly added 14 g (104.5 mmol) of NaBH4. This mixture was stirred for 30 minutes at 0° C. and a solution of 25 g of methyl 3-(3-benzyloxy-4-methoxyphenyl)-4-nitrobutanoate in 500 mL of MeOH was added. Then, 8.3 g (34.8 mmol) of NiCl2-6H2O was added to the reaction mixture, followed by the slow portion-wise addition of 9.2 g (243 mmol) of NaBH4. The mixture stirred at 0° C. for 1 hour and then 150 g of K2CO3 was added in one portion. The mixture was allowed to warm to ambient temperature and stirring continued for 18 hours. The suspension was filtered through a pad of celite, washed with 2×1000 mL of MeOH and concentrated. The residue was taken up in 2000 mL of EtOAc and the organic fraction was successively washed with 200 mL of H2O, 250 mL of brine, dried (Na2SO4) and concentrated to a solid. Trituration with hexanes/EtOAc provided 13 g of the desired product. An additional 2.3 g of product was obtained by extracting the aqueous fractions with EtOAc and combining this with the trituration solvent, concentrating and triturating with EtOAc/hexanes. Total yield was 15.3 g (74% yield). 1H NMR (400 MHz, CDCl3) δ 7.44-7.26 (m, 5H), 6.87-6.70 (m, 3H), 5.75 (bs, 1H), 5.14 (s, 2H), 3.87 (s, 3H), 3.70-3.50 (m, 2H), 3.28 (t, 1H), 2.70-2.63 (m, 1H), 2.42-2.35 (m,1H).

reactant | NaBH4 | 104.5 mmol, 14 g | [BH4-].[Na+]
reactant | methyl 3-(3-benzyloxy-4-methoxyphenyl)-4-nitrobutanoate | 25 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)C(CC(=O)OC)C[N+](=O)[O-] | C19H21NO6
reactant | NaBH4 | 243 mmol, 9.2 g | [BH4-].[Na+]
reactant | K2CO3 | 150 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 750 mL | CO | CH4O
solvent | MeOH | 500 mL | CO | CH4O
product | 4-(3-Benzyloxy-4-methoxyphenyl)-2-pyrrolidone | 13 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)C1CC(NC1)=O | C18H19NO3
